Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
"My doctor told me to come here for ECT."
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
Mr. ___ is a ___ year-old man with history of bipolar 
depression who presents at the urging of his doctor for 
inpatient ECT.  He had ECT ___ year ago at ___, and he reports 
that is helped him tremendously; however in the last few months 
he has been increasingly depressed.  He does not feel actively 
suicidal at this time, but in similar situations in the past he 
has inpulsively attempted suicide by overdose, with both 
attempts landing him in the ICU.
 
Past Medical History:
Past Psychiatric History:  Carries a diagnosis of bipolar 
disorder, and describes past episodes of “racing thoughts, 
sleeplessness, increased energy,” not during intoxication.  He 
has been mostly in the depressed phase over the past few years.  
He has four prior hospitalizations, last in ___.  He 
reports two suicide attempts in the past, both by overdose, and 
the last was about ___ years ago.  He denies history of trauma.  
His psychiatrist is Dr. ___ at ___.  He has tried 
wellbutrin, depakote, and zyprexa in the past.  

Medical History:
HTN
Psoriasis

 
Social History:
SUBSTANCE ABUSE HISTORY: P.t. has a h/o of abusing EtOH, but
admits to only social drinking since completing an ___ 
___
rehab program. Denies any history of withdrawal, seizures,
delirium. No tobacco use. Denies regular use of street drugs, 
but
does admit to use of cocaine and MJ last ___ years ago.

SOCIAL HISTORY: ___
Family History:
Sister with depression and suicide attempt.
 
Physical Exam:
Neuropsychiatric Examination:
*VS:  BP:115/84  HR79  temp 98.1   resp: 20 O2 sat: 99%  height: 

70 inches weight: 186 lbs

General: Well-nourished, in no distress.
HEENT: Normocephalic. PERRL, EOMI. Oropharynx clear.
Neck: Supple, trachea midline.  No adenopathy or thyromegaly.
Back: No significant deformity
Lungs: Clear to auscultation; no crackles or wheezes.
CV: Regular rate and rhythm; no murmurs/rubs/gallops; 
Abdomen: Soft, nontender, nondistended; no masses or
organomegaly.
Extremities: No clubbing, cyanosis, or edema.
Skin: Warm and dry, no rash or significant lesions.
Neurological:
  *Cranial Nerves-
       I: Not tested
       II: Pupils equally round and reactive to light
bilaterally. Visual fields are full to confrontation.
      III, IV, VI: Extraocular movements intact bilaterally
without nystagmus.
      V, VII: Facial strength and sensation intact and 
symmetric.
      VIII: Hearing intact to voice.
      IX, X: Palatal elevation symmetrical.
      XI: Sternocleidomastoid and trapezius normal bilaterally.
      XII: Tongue midline without fasciculations.
  *Motor- Normal bulk and tone bilaterally. No abnormal
movements, tremors. Strength full power ___ throughout. No
pronator drift.  
  *Sensation- Intact to light touch bilaterally.
  *Reflexes- B 2+ T 2+ Pa 2+ bilaterally
  *Coordination- Normal on finger-nose-finger, rapid alternating
movements, heel to shin.  
  *Appearance: Appears younger than stated age, dressed in
hospital gown, appropriate grooming and hygiene
  Behavior: pleasant, cooperative
  *Mood and Affect: "depressed" Full range.  Superficially 
bright
at times.
  *Thought process (including whether linear, tangential,
circumstantial and presence or absence of loose *associations):
Linear and goal directed.  No LOA.  No FOI.
  *Thought Content (including presence or absence of
hallucinations, delusions, homicidal and suicidal ideation, with
details if present): No delusions elicited.  SI without clear
plan but hx of SA by OD in past.
  *Judgment and Insight: Fair.
    *Speech: normal rate, volume, and tone
    *Language: fluent/grammatical.  No dysarrthria.

 
Pertinent Results:
___ 03:40PM BLOOD WBC-9.2 RBC-5.07 Hgb-15.2 Hct-44.5 MCV-88 
MCH-29.9 MCHC-34.2 RDW-13.1 Plt ___
___ 03:40PM BLOOD Neuts-68.3 ___ Monos-3.0 Eos-1.8 
Baso-0.4
___ 03:40PM BLOOD Plt ___
___ 03:40PM BLOOD Glucose-95 UreaN-14 Creat-1.1 Na-140 
K-4.5 Cl-103 HCO3-24 AnGap-18
___ 03:40PM BLOOD estGFR-Using this
___ 03:40PM BLOOD ALT-31 AST-26 AlkPhos-63
___ 03:40PM BLOOD Albumin-4.7 Calcium-9.7 Phos-3.0 Mg-2.3
___ 03:40PM BLOOD VitB12-371 Folate-11.5
___ 03:40PM BLOOD TSH-1.3
___ 03:40PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 03:40PM BLOOD HoldBLu-HOLD
___ RAPID PLASMA REAGIN TEST (Final ___: NONREACTIVE. 


 
Brief Hospital Course:
1. Psychiatric (Bipolar depression):
Unilateral ECT initiated on hospital day #2. After discussion 
with Dr. ___ Dr. ___ pt's continued lack 
of ability to f/u with OP ECT and his hx of quick relapse with 
lack of ECT maintenance, decision was made to switch to 
bilateral ECT on treatment session #3. Pt was planned to recieve 
total of 7 ECT sessions inpatient and so far has completed  ___ 
treatment #5 as of ___ (this is #3 of bilateral however). 
Effexor was simultaneously tapered and discontinued to reduce 
manic cycling risk in this patient with bipolar disorder.
Pt clearly responding to ECT, brighter, reporting resolution of 
depression, passive SI. denying active SI, intent, plan. no HI 
or psychotic ROS. He mentioned feeling "a little more confused" 
after switch to bilateral but MMSE performed was normal after 
bilateral sessions and he reported no confusion or mempory 
troubles on non ECT days. Eager for d/c but agreeing to stay to 
complete his inpatient ECT sessions in concert with Dr. 
___.

2) Medical:
Pt lost part of his dental filling while chewing a meal; had 
resultant dental pain in R ___ last lower molar. Dental xrays 
negative for fractures, VSS. Dental consult saw pt, no acute 
changes and could not replace the filling at this time. Pt 
realizes he will need to see dentist as an OP for further 
management. For dental pain on unit acutely, pt recieving 
Ibuprofen 800 mg PO Q8H:PRN pain,
OxycoDONE (Immediate Release)  10 mg PO/NG Q8H:PRN tooth pain,
and/or tylenol prns to good effect. 

3) Legal: ___
4) Groups/Behavioral:
Pt showed interest and attended  groups, remained visible and 
calm in unit milieu. No disruptive  or threatening behavior. He 
remained in behavioral control,  never  required 
chemical/physical restraints, QR, 1:1 sitter.
 
Medications on Admission:
Effexor XR 300 qam, Klonopin 0.5 mg PO TID prn, Abilify 10 mg PO
QHS, Ambien 10 mg PO QHS, Clobex shampoo ___ times a week
 
Discharge Medications:
1. CLOBEX  Topical
2. Oxycodone 5 mg Tablet Sig: Two (2) Tablet PO Q8H (every 8 
hours) as needed for tooth pain for 3 days.
Disp:*18 Tablet(s)* Refills:*0*
3. Zolpidem 5 mg Tablet Sig: Two (2) Tablet PO HS (at bedtime) 
for 7 days.
Disp:*14 Tablet(s)* Refills:*0*
4. Aripiprazole 15 mg Tablet Sig: Two (2) Tablet PO HS (at 
bedtime) for 4 weeks.
Disp:*60 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Axis I:
bipolar disorder, depressed
history of polysubstance abuse
Axis II: deferred
Axis III: none identified
Axis IV: moderately severe psychosocial stressors identified
Axis V: GAF upon discharge: 40
 
Discharge Condition:
Mental Status: Clear and coherent
Level of Consciousness: Alert and interactive
Activity Status: Ambulatory - Independent

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
*It was a pleasure to have worked with you, and we wish you the 
best of health.*
 
Followup Instructions:
___